US04870219
1.4 g of 1,1,3,3-tetramethyl-5-[(E)-α-methylstyryl]-2-indanone are dissolved in 100 ml of ethanol and treated at room temperature with 6 g of sodium borohydride. After stirring at room temperature for 16 hours the reaction mixture is poured on to ice and extracted repeatedly with ether. The organic phase is washed with saturated sodium chloride solution, dried and evaporated. The residue can be recrystallized from hexane and gives 1.1 g of 1,1,3,3-tetramethyl-5-[(E)-α-methylstyryl]-2-indanol in colourless crystals, melting point 63°-67°.

reactant | 1,1,3,3-tetramethyl-5-[(E)-α-methylstyryl]-2-indanone | 1.4 g | CC1(C(C(C2=CC(=CC=C12)\C(=C\C1=CC=CC=C1)\C)(C)C)=O)C | C22H24O
reactant | sodium borohydride | 6 g | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1,1,3,3-tetramethyl-5-[(E)-α-methylstyryl]-2-indanol | 1.1 g | CC1(C(C(C2=CC(=CC=C12)\C(=C\C1=CC=CC=C1)\C)(C)C)O)C | C22H26O
